US07498440B2
1-(2-{[(3-fluorophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (94 mg, 0.321 mmol) was added to a solution of 1-{[(2-bromoethyl)oxy]methyl}-3-fluorobenzene (75 mg, 0.321 mmol) in 2:3 CH3CN/CHCl3 (4 mL), and the reaction was heated at 60° C. for 3 days. The reaction was concentrated under reduced pressure, and the crude product was washed with EtOAc (3×2 mL). The product was dried under high vacuum to give the title compound (50 mg, 30%). LC/MS ESI RT 1.95 min M+ 446

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.321 mmol, 94 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-{[(2-bromoethyl)oxy]methyl}-3-fluorobenzene | 0.321 mmol, 75 mg | BrCCOCC1=CC(=CC=C1)F | C9H10BrFO
solvent | CH3CN CHCl3 | 4 mL | CC#N.C(Cl)(Cl)Cl
product | 1-(2-{[(3-fluorophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 50 mg, 30% | [Br-].FC=1C=C(C=CC1)COCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33FNO2.BrH/c30-27-13-7-8-24(22-27)23-33-21-20-31-17-14-28(15-18-31,16-19-31)29(32,25-9-3-1-4-10-25)26-11-5-2-6-12-26;/h1-13,22,32H,14-21,23H2;1H/q+1;/p-1
